US07276516B2
Add 1-bromo-4-fluorobenzene (220 μL, 350 mg, 2.0 mmol, 2.0 equiv) to a mixture of (3-aminomethyl-azetidin-1-yl)-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone (446 mg, 1.00 mmol, 1 equiv), tris(dibenzylideneacetone)dipalladium(0) (23 mg, 0.025 mmol, 0.025 equiv), 2-(di-tert-butylphosphino)biphenyl (15 mg, 0.057 mmol, 0.050 equiv), and sodium tert-butoxide (120 mg, 1.2 mmol, 1.2 equiv) in anhydr toluene (4 mL) and heat at 100° C. for 19 h. After cooling, transfer the reaction mixture through a 0.45-μm filter disc to a column of silica gel (125 mm×25 mm dia.) and elute (10-100% EtOAc/hex) to yield 98 mg (18%) of [3-[(4-fluoro-phenylamino)-methyl]-azetidin-1-yl]-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone as a light-yellow foam. 1H NMR indicated pure desired product. MS (m/e): 540.07 (M+1); 538.19 (M−1).

reactant | 1-bromo-4-fluorobenzene | 2.0 mmol, 220 μL, 350 mg, 2.0 equiv | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | (3-aminomethyl-azetidin-1-yl)-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone | 1.00 mmol, 446 mg, 1 equiv | NCC1CN(C1)C(=O)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1 | C25H23N3O3S
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.057 mmol, 15 mg, 0.050 equiv | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 1.2 mmol, 120 mg, 1.2 equiv | CC(C)([O-])C.[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.025 mmol, 23 mg, 0.025 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [3-[(4-fluoro-phenylamino)-methyl]-azetidin-1-yl]-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone | 98 mg, 18% | FC1=CC=C(C=C1)NCC1CN(C1)C(=O)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1 | C31H26FN3O3S
